### PR TITLE
[Merged by Bors] - feat: MulActionHom in the semilinear style

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
Generalize `MulActionHom` so that it allows two different monoids acting, related by a morphism. This is inspired by the treatment of (semi)linear maps in mathlib, and allows to refactor them.

Let `M`, `N`, `X`, `Y` be types, with `SMul M X` and `SMul N Y`, and let `φ : M → N` be a map. 
* `MulActionHom φ X Y`, the type of equivariant functions from `X` to `Y`, consists of functions `f : X → Y` such that `f (m • x) = (φ m) • (f x)` for all `m : M` and `x : X`.

Assume that we have `Monoid M`, `Monoid N` and that `φ : M →* N`. For `A`, `B` by types with `AddMonoid A` and `AddMonoid B`, endowed with `DistribMulAction M A` and `DistribMulAction M B`:
* `DistribMulActionHom φ A B` is  the type of equivariant additive monoid homomorphisms from `A` to `B`.

Similarly, when `R` and `S` are types with `Semiring R`, `Semiring S`, `MulSemiringAction M R` and `MulSemiringAction N S` 
* `SMulSemiringHom φ R S` is the type of equivariant ring homomorphisms
  from `R` to `S`.

The above types have corresponding classes:
* `MulActionHomClass F φ X Y` states that `F` is a type of bundled `X → Y` homs  which are `φ`-equivariant
* `DistribMulActionHomClass F φ A B` states that `F` is a type of bundled `A → B` homs  preserving the additive monoid structure and `φ`-equivariant
* `SMulSemiringHomClass F φ R S` states that `F` is a type of bundled `R → S` homs  preserving the ring structure and `φ`-equivariant

## Notation

We introduce the following notation to code equivariant maps
(the subscript index `ₑ` is for *equivariant*) :
* `X →ₑ[φ] Y` is `MulActionHom φ X Y`.
* `A →ₑ+[φ] B` is `DistribMulActionHom φ A B`.
* `R →ₑ+*[φ] S` is `MulSemiringActionHom φ R S`.

When `M = N` and `φ = MonoidHom.id M`, we provide the backward compatible notation :
* `X →[M] Y` is `MulActionHom (@id M) X Y`
* `A →+[M] B` is `DistribMulActionHom (MonoidHom.id M) A B`
* `R →+*[M] S` is `MulSemiringActionHom (MonoidHom.id M) R S`

This more general definition is propagated all over mathlib, in particular to `LinearMap`.

The treatment of composition of equivariant maps is inspired by that of semilinear maps. We provide classes `CompTriple` and `MonoidHom.CompTriple` of “composable triples`, and various instances for them. 

---

TODO (?) : 
- The `CompTriple` mechanism may have to be unified
- There are no semilinear maps of affine spaces.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by AntoineChambert-Loir** [comment]
I need some advice here : 
- MulActionHom uses `map_smul'`, with `_root_.map_smul`
- LinearMap was using `map_smul_sl` for (truly) semilinear map, and `map_smul` when the morphism is identity. I have defined abbreviations, possibly not in the correct way.
- The outcome is that Lean hesitates between various `map_smul` functions, so that I have to specify `SemilinearMapClass.map_smul`, which is awkward.

File: Mathlib/Algebra/Hom/GroupAction.lean [hunk 1]
```diff
@@ -61,143 +144,286 @@ structure MulActionHom where
...
 
 You should extend this class when you extend `MulActionHom`. -/
-class SMulHomClass (F : Type _) (M X Y : outParam <| Type _) [SMul M X] [SMul M Y] extends
+class MulActionHomClass (F : Type _) {M N : outParam (Type _)}
+(φ : outParam (M → N)) (X Y : outParam (Type _)) [SMul M X] [SMul N Y] extends
   FunLike F X fun _ => Y where
   /-- The proposition that the function preserves the action. -/
-  map_smul : ∀ (f : F) (c : M) (x : X), f (c • x) = c • f x
-#align smul_hom_class SMulHomClass
+  map_smul : ∀ (f : F) (c : M) (x : X), f (c • x) = (φ c) • (f x)
```
Comment (Vierkantor) [inline Mathlib/Algebra/Hom/GroupAction.lean:169]: [As discussed on Zulip](https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/.236057.20-.20Add.20equivariant.20morphisms.20and.20adjust.20linear.20maps) I'd reserve `map_smul` for the "true" preserving case. So for the class we'd write:
```suggestion
  map_smulₑ : ∀ (f : F) (c : M) (x : X), f (c • x) = (φ c) • (f x)
```

Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Hom/GroupAction.lean]: It's `map_smul'` now, because it has to coincide with what's on LinearMap…

File: Mathlib/Algebra/DualQuaternion.lean [hunk 2]
```diff
@@ -24,8 +24,8 @@ rigid motions in 3D space can be represented by dual quaternions of unit length.
 * <https://en.wikipedia.org/wiki/Dual_quaternion>
 -/
 
-
-variable {R : Type*} [CommRing R]
+-- ACL : making R explicit because otherwise it is not found
+variable (R : Type*) [CommRing R]
```
Comment (Vierkantor) [inline Mathlib/Algebra/DualQuaternion.lean:28]: Is this also fixed by the shortcut `FunLike` instance for `LinearEquiv`?

**Review by Vierkantor — COMMENTED** [review]
I went through the files up to PiTensorProduct and I think we're still on the right track. The shortcut `FunLike` instance should help with some of these build issues.

File: Mathlib/Algebra/Hom/GroupAction.lean [hunk 3]
```diff
@@ -1,232 +1,489 @@
 /-
 Copyright (c) 2020 Kenny Lau. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: Kenny Lau
+Authors: Kenny Lau, Antoine Chambert-Loir
+
+! This file was ported from Lean 3 source module algebra.hom.group_action
+! leanprover-community/mathlib commit e7bab9a85e92cf46c02cb4725a7be2f04691e3a7
+! Please do not edit these lines, except to modify the commit id
+! if you have ported upstream changes.
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Hom/GroupAction.lean:9]: OK, I comment them out for the moment.

File: Mathlib/Algebra/Module/Equiv.lean [hunk 4]
```diff
@@ -91,11 +91,14 @@ See also `LinearEquivClass F R M M₂` for the case where `σ` is the identity m
 A map `f` between an `R`-module and an `S`-module over a ring homomorphism `σ : R →+* S`
 is semilinear if it satisfies the two properties `f (x + y) = f x + f y` and
 `f (c • x) = (σ c) • f x`. -/
-class SemilinearEquivClass (F : Type*) {R S : outParam (Type*)} [Semiring R] [Semiring S]
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Module/Equiv.lean:94]: Yes.

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 5]
```diff
@@ -417,42 +417,49 @@ def lift : MultilinearMap R s E ≃ₗ[R] (⨂[R] i, s i) →ₗ[R] E where
 
 variable {φ : MultilinearMap R s E}
 
+-- Why is it necessary to replace `lift` with `lift.toLinearMap` here?
 @[simp]
-theorem lift.tprod (f : ∀ i, s i) : lift φ (tprod R f) = φ f :=
+theorem lift.tprod (f : ∀ i, s i) : lift.toLinearMap φ (tprod R f) = φ f :=
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean]: Hello @Vierkantor , I tried with this instance that you indicated me (it took me time to understand where to insert it); it works fine with it. But since it was found automatically, I removed it, and it still works…

File: Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean [hunk 6]
```diff
@@ -58,7 +58,7 @@ namespace NonUnitalSubalgebra
 variable {F : Type v'} {R' : Type u'} {R : Type u} {A : Type v} {B : Type w} {C : Type w'}
 variable [CommSemiring R]
 variable [NonUnitalNonAssocSemiring A] [Module R A] [NonUnitalNonAssocSemiring B] [Module R B]
-variable [NonUnitalNonAssocSemiring C] [Module R C] [NonUnitalAlgHomClass F R A B]
+variable [NonUnitalNonAssocSemiring C] [Module R C] [NonUnitalAlgHomClass F (@id R) A B]
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean]: I think so, and I just defined it… (it breaks many things below without it)

[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean]: Hello again Anne @Vierkantor . I defined `NonUnitalAlgHomClass` as an abbrev to `NonUnitalAlgSemiHomClass`, but later on, in Algebra.Star.StarAlgHom.lean, I get an error message that `NonUnitalAlgHomClass` is not a structure…

**Comment by AntoineChambert-Loir** [comment]
@ADedecker This branch is redefining MulActionHom in the semilinear style.
I went up to a file of yours where you used docs#SMulHom.map_smul.
I have the choice between changing it to `MulActionHom.map_smul underscore sl`, or `_root_.map_smul` (because `Filter` is opened, and there is a confusion). What do you feel is preferable?

File: Mathlib/Algebra/Module/LinearMap.lean [hunk 7]
```diff
@@ -86,10 +86,11 @@ is semilinear if it satisfies the two properties `f (x + y) = f x + f y` and
 maps is available with the predicate `IsLinearMap`, but it should be avoided most of the time. -/
 structure LinearMap {R S : Type*} [Semiring R] [Semiring S] (σ : R →+* S) (M : Type*)
     (M₂ : Type*) [AddCommMonoid M] [AddCommMonoid M₂] [Module R M] [Module S M₂] extends
-    AddHom M M₂ where
-  /-- A linear map preserves scalar multiplication.
-  We prefer the spelling `_root_.map_smul` instead. -/
-  protected map_smul' : ∀ (r : R) (x : M), toFun (r • x) = σ r • toFun x
+    AddHom M M₂, MulActionHom σ M M₂
```
Comment (alreadydone) [inline Mathlib/Algebra/Module/LinearMap.lean:89]: (Semi-)LinearMap appears to be exactly the same as DistribMulActionSemiHom, except with different typeclass prerequisites (which allow map_zero to be derived rather than included). I understand that replacing LinearMap with DistribMulActionSemiHom requires introducing another constructor that doesn't require providing map_zero, and switching from `where` to the new constructor, but I think SemilinearMapClass can be replaced by DistribMulActionSemiHomClass.

By the way, why do you add `Semi` to `DistribMulActionHom` but keep the name `MulActionHom` unchanged?

Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Module/LinearMap.lean:89]: Thank you for these comments. You point out rightly that the naming is still a mess. I will write something on Zulip to clarify which names should be given to these classes.

Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Module/LinearMap.lean:89]: @alreadydone 
I'm slowly updating the files to take your last remark into account.
Also, when the map between acting types is identity, I provide the richest possible identity (eg, `MonoidHom.id M` instead of `@id M`).

Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Module/LinearMap.lean:89]: Regarding your first remark, I have the impression to `LinearMap` and `DistribMulActionHom` are identical up to instances regarding the relevant types. 
I am tempted to try *renaming* `DistribMulActionHom` as `LinearMap`…

**Comment by ADedecker** [comment]
> @ADedecker This branch is redefining MulActionHom in the semilinear style. I went up to a file of yours where you used docs#SMulHom.map_smul. I have the choice between changing it to `MulActionHom.map_smul underscore sl`, or `_root_.map_smul` (because `Filter` is opened, and there is a confusion). What do you feel is preferable?

I think the second one is better, because it's the one we would use if there was no conflict.

**Comment by riccardobrasca** [comment]
bench!

**Comment by riccardobrasca** [comment]
!bench

**Comment by riccardobrasca** [comment]
@Vierkantor what do you think of the bench result? The total compilation time of mathlib seems more or less the same.

**Comment by Vierkantor** [comment]
> @Vierkantor what do you think of the bench result? The total compilation time of mathlib seems more or less the same.

I would have expected a slowdown as a tradeoff to the extra expressivity. Since the total difference is `837,353 mld.` instructions (i assume that's 8 × 10^11?) that would translate to 1-2 minutes extra build time over the whole of mathlib spread out over N cpu cores. Since that's less than I would have expected, and there are no specific heartbeat bumps according to `git diff $(git merge-base origin/master HEAD) HEAD | rg maxHeartbeat`, I count it as a positive sign.

**Comment by riccardobrasca** [comment]
That's good. BTW there is now a conflict...

File: Mathlib/Algebra/Algebra/NonUnitalHom.lean [hunk 8]
```diff
@@ -45,32 +45,52 @@ non-unital, algebra, morphism
 
 set_option autoImplicit true
 
-
 universe u v w w₁ w₂ w₃
 
-variable (R : Type u) (A : Type v) (B : Type w) (C : Type w₁)
+variable {R : Type*} {S : Type*} -- [Monoid R] [Monoid S] (φ : R →* S)
+--   (A : Type v) (B : Type w) (C : Type w₁)
```
Comment (Vierkantor) [inline Mathlib/Algebra/Algebra/NonUnitalHom.lean:51]:
```suggestion
variable {R : Type*} {S : Type*}
```

File: Mathlib/Algebra/Algebra/NonUnitalHom.lean [hunk 9]
```diff
@@ -45,32 +45,52 @@ non-unital, algebra, morphism
...
+from `A` to `B` which are equivariant with respect to `φ`.  -/
+class NonUnitalAlgSemiHomClass (F : Type*)
+    {R S : outParam (Type*)} [Monoid R] [Monoid S] (φ : outParam (R →* S))
+    (A : outParam (Type*)) (B : outParam (Type*))
+    [NonUnitalNonAssocSemiring A] [NonUnitalNonAssocSemiring B]
+    [DistribMulAction R A] [DistribMulAction S B]
+    extends DistribMulActionSemiHomClass F φ A B, MulHomClass F A B
+#align non_unital_alg_hom_class NonUnitalAlgSemiHomClass
+
+-- TODO (ACL) : why doesn't it work later?
```
Comment (Vierkantor) [inline Mathlib/Algebra/Algebra/NonUnitalHom.lean:84]: What do you mean precisely by "work later"?

File: Mathlib/GroupTheory/GroupAction/Hom.lean [hunk 10]
```diff
@@ -1,212 +1,524 @@
...
+! leanprover-community/mathlib commit e7bab9a85e92cf46c02cb4725a7be2f04691e3a7
+! Please do not edit these lines, except to modify the commit id
+! if you have ported upstream changes.
 -/
+
 import Mathlib.Algebra.GroupRingAction.Basic
 import Mathlib.Algebra.Module.Basic
-
-#align_import algebra.hom.group_action from "leanprover-community/mathlib"@"e7bab9a85e92cf46c02cb4725a7be2f04691e3a7"
+import Mathlib.Algebra.Ring.Equiv
```
Comment (Vierkantor) [inline Mathlib/GroupTheory/GroupAction/Hom.lean:14]: Could you please put back the `#align_import` line? That is the new way to track Mathlib 3 -> 4 alignment.

File: Mathlib/GroupTheory/GroupAction/Hom.lean [hunk 11]
```diff
@@ -1,212 +1,524 @@
...
+    CompTriple φ ψ ψ := {
+  comp_eq := by simp only [isId.eq_id, MonoidHom.coe_mk, OneHom.coe_mk, Function.comp.right_id]}
+
+example {φ : N →* N} [isId φ] {ψ : N → P} : CompTriple φ ψ ψ := comp_id
+
+lemma id_comp {φ : M →* N} {ψ : N →* N} [isId ψ] :
+    CompTriple φ ψ φ := {
+  comp_eq := by simp only [isId.eq_id, MonoidHom.coe_mk, OneHom.coe_mk, Function.comp.left_id]}
 
 -/
```
Comment (Vierkantor) [inline Mathlib/GroupTheory/GroupAction/Hom.lean:120]:
```suggestion
```

File: Mathlib/GroupTheory/GroupAction/Hom.lean [hunk 12]
```diff
@@ -1,212 +1,524 @@
...
-* `A →+[M] B` is `DistribMulActionHom M A B`.
-* `R →+*[M] S` is `MulSemiringActionHom M R S`.
+* `X →ₑ[φ] Y` is `MulActionHom φ X Y`.
+* `A →ₑ+[φ] B` is `DistribMulActionHom φ A B`.
+* `R →ₑ+*[φ] S` is `MulSemiringActionHom φ R S`.
+
+* When `M = N` and `φ = MonoidHom.id M`, we provide the notation `X →[M] Y`
+-/
+
+section CompTriple
```
Comment (Vierkantor) [inline Mathlib/GroupTheory/GroupAction/Hom.lean:48]: Like `RingHomCompTriple`, I think this section deserves its own file. Since it's about pure functions, maybe `Logic/Function/CompTypeclasses.lean`?

File: Mathlib/GroupTheory/GroupAction/Hom.lean [hunk 13]
```diff
@@ -1,212 +1,524 @@
...
+  comp_eq := by simp only [isId.eq_id, h.id] }
+
+lemma apply {M N P : Type _}
+    {φ : M → N} {ψ : N → P} {χ : M → P} (h : CompTriple φ ψ χ) (x : M) :
+  ψ (φ x) = χ x := by
+  rw [← h.comp_eq, Function.comp_apply]
+
+end CompTriple
+
+section MonoidHomCompTriple
```
Comment (Vierkantor) [inline Mathlib/GroupTheory/GroupAction/Hom.lean:90]: Similarly this section can go in `Mathlib/Algebra/Group/CompTypeclasses.lean`.

File: Mathlib/GroupTheory/GroupAction/Hom.lean [hunk 14]
```diff
@@ -1,212 +1,524 @@
...
 -- @[nolint has_nonempty_instance]
 structure MulActionHom where
   /-- The underlying function. -/
-  protected toFun : X → Y
-  /-- The proposition that the function preserves the action. -/
-  protected map_smul' : ∀ (m : M') (x : X), toFun (m • x) = m • toFun x
-#align mul_action_hom MulActionHom
+  toFun : X → Y
+  /-- The proposition that the function commutes with the actions. -/
+  map_smul' : ∀ (m : M) (x : X), toFun (m • x) = (φ m) • toFun x
```
Comment (Vierkantor) [inline Mathlib/GroupTheory/GroupAction/Hom.lean:217]: Is there a reason to remove the `protected` here? I see quite a few instances of needing to insert the `_root_` namespace below and I prefer over-namespacing.

File: Mathlib/GroupTheory/GroupAction/Hom.lean [hunk 15]
```diff
@@ -1,212 +1,524 @@
...
+-/
+
+/-- `MulActionSemiHomClass F φ X Y` states that
+  `F` is a type of morphisms which are `φ`-equivariant.
 
 You should extend this class when you extend `MulActionHom`. -/
-class SMulHomClass (F : Type*) (M X Y : outParam <| Type*) [SMul M X] [SMul M Y] extends
+class MulActionSemiHomClass (F : Type _) {M N : outParam (Type _)}
+(φ : outParam (M → N)) (X Y : outParam (Type _)) [SMul M X] [SMul N Y] extends
   FunLike F X fun _ => Y where
```
Comment (Vierkantor) [inline Mathlib/GroupTheory/GroupAction/Hom.lean:238]:
```suggestion
    (φ : outParam (M → N)) (X Y : outParam (Type _)) [SMul M X] [SMul N Y]
  extends FunLike F X fun _ => Y where
```

File: Mathlib/GroupTheory/GroupAction/Hom.lean [hunk 16]
```diff
@@ -1,212 +1,524 @@
...
 
-theorem ext_iff {f g : X →[M'] Y} : f = g ↔ ∀ x, f x = g x :=
+theorem ext_iff [MulActionSemiHomClass F φ X Y] {f g : F} : f = g ↔ ∀ x, f x = g x :=
   FunLike.ext_iff
 #align mul_action_hom.ext_iff MulActionHom.ext_iff
 
-protected theorem congr_fun {f g : X →[M'] Y} (h : f = g) (x : X) : f x = g x :=
+protected theorem congr_fun [MulActionSemiHomClass F φ X Y] {f g : F} (h : f = g) (x : X) :
+    f x = g x :=
   FunLike.congr_fun h _
```
Comment (Vierkantor) [inline Mathlib/GroupTheory/GroupAction/Hom.lean:315]: I'm not sure I like these changes: really `ext_iff` and `congr_fun` should always be `FunLike.ext_iff` and `FunLike.congr_fun`, this is just a reimplementation for backwards compatibility. (And on #8386 these definitions will cause a "unused variable" error, since `FunLike` will no longer be part of `HomClass`es.)

File: Mathlib/GroupTheory/SchurZassenhaus.lean [hunk 17]
```diff
@@ -61,7 +61,7 @@ theorem smul_diff_smul' [hH : Normal H] (g : Gᵐᵒᵖ) :
         simp only [Subtype.ext_iff, coe_mk, coe_mul, mul_assoc, mul_inv_cancel_left] }
   refine (Fintype.prod_equiv (MulAction.toPerm g).symm _ _ fun x ↦ ?_).trans (map_prod ϕ _ _).symm
   simp only [smul_apply_eq_smul_apply_inv_smul, smul_eq_mul_unop, mul_inv_rev, mul_assoc,
-    MonoidHom.id_apply, toPerm_symm_apply, MonoidHom.coe_mk, OneHom.coe_mk]
+    MonoidHom.id_apply, id_eq, toPerm_symm_apply, MonoidHom.coe_mk, OneHom.coe_mk]
```
Comment (Vierkantor) [inline Mathlib/GroupTheory/SchurZassenhaus.lean:64]: Could you explain where the `id_eq`s come from? (Also in other files.) This is not too much of a regression but might imply the simp set is suboptimal.

File: Mathlib/RingTheory/LocalProperties.lean [hunk 18]
```diff
@@ -440,7 +440,9 @@ theorem IsLocalization.smul_mem_finsetIntegerMultiple_span [Algebra R S] [Algebr
   rw [Submodule.span_smul] at hx₁
   replace hx : _ ∈ y' • Submodule.span R (s : Set S') := Set.smul_mem_smul_set hx
   rw [hx₁] at hx
-  erw [← g.map_smul, ← Submodule.map_span (g : S →ₗ[R] S')] at hx
+  -- ACL : coercion does not work anymore ???
+  -- erw [← g.map_smul, ← Submodule.map_span (g : S →ₗ[R] S')] at hx
+  erw [← g.map_smul, ← Submodule.map_span g.toLinearMap] at hx
```
Comment (Vierkantor) [inline Mathlib/RingTheory/LocalProperties.lean:445]: I'll have to think a bit more about the (`NonUnital`)`AlgHom` coercions not being found, this seems somehow to only occur in complicated applications and not in simple testcases. Presumably there is some parameter that is underdetermined in this rewrite and that is blocking the coercion being found.

**Review by Vierkantor — COMMENTED** [review]
Some initial comments.

File: Mathlib/Algebra/Algebra/NonUnitalHom.lean (hunk 9 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Algebra/NonUnitalHom.lean:84]: Probably a comment I didn't delete. I don't remember what I meant.

File: Mathlib/GroupTheory/GroupAction/Hom.lean (hunk 10 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Hom.lean:14]: done

File: Mathlib/GroupTheory/GroupAction/Hom.lean [hunk 19]
```diff
@@ -1,212 +1,524 @@
...
+  constructor
+  all_goals {
+    rintro ⟨h⟩
+    exact ⟨ by simp only [← κ.comp_eq, ← h, ← κ'.comp_eq]; rfl ⟩ }
+
+end CompTripleClass
+
+end CompTripleClass
+
+-/
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Hom.lean:197]: OK

File: Mathlib/GroupTheory/GroupAction/Hom.lean (hunk 11 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Hom.lean:120]: deleted

File: Mathlib/GroupTheory/GroupAction/Hom.lean (hunk 12 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Hom.lean:48]: It uses a bit of groups, `Algebra/Group/Home/CompTypeClass`.

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Hom.lean:48]: Logic/Function/CompTypeclass
(plural?)

File: Mathlib/GroupTheory/GroupAction/Hom.lean (hunk 13 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Hom.lean:90]: CompTypeclass (plural?)

File: Mathlib/GroupTheory/GroupAction/Hom.lean (hunk 14 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Hom.lean:217]: No, there is not; this is not an issue I was enough aware of.

File: Mathlib/GroupTheory/GroupAction/Hom.lean [hunk 20]
```diff
@@ -1,212 +1,524 @@
...
+
+@[inherit_doc]
+notation:25 (name := «MulActionHomIdLocal≺») X " →[" M:25 "] " Y:0 => MulActionHom (@id M) X Y
 
-/-- `SMulHomClass F M X Y` states that `F` is a type of morphisms preserving
-scalar multiplication by `M`.
+/-
+/-- Equivariant functions -/
+abbrev MulActionHom (M : Type _) (X Y : Type _) [SMul M X] [SMul M Y] := MulActionHom (@id M) X Y
+-/
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Hom.lean:230]: OK

File: Mathlib/GroupTheory/GroupAction/Hom.lean (hunk 15 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Hom.lean:238]: OK

File: Mathlib/GroupTheory/GroupAction/Hom.lean [hunk 21]
```diff
@@ -1,212 +1,524 @@
...
-/- porting note: Removed a @[nolint dangerousInstance] for SMulHomClass
- not dangerous due to outParam -/
+export MulActionSemiHomClass (map_smulₛₗ)
 
-export SMulHomClass (map_smul)
+/-- `MulActionHomClass F M X Y` states that `F` is a type of
+morphisms which are equivariant with respect to actions of `M`
+This is an abbreviation of `MulActionSemiHomClass`. -/
+abbrev MulActionHomClass (F : Type _) (M : outParam (Type _))
+(X Y : outParam (Type _)) [SMul M X] [SMul M Y] :=
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Hom.lean:249]: OK

File: Mathlib/GroupTheory/GroupAction/Hom.lean [hunk 22]
```diff
@@ -1,212 +1,524 @@
...
+    rw [← mul_one (m • x), ← smul_eq_mul, map_smul, smul_assoc, ← map_smul,
+      smul_eq_mul, mul_one, id_eq]
 
 protected theorem map_smul (f : X →[M'] Y) (m : M') (x : X) : f (m • x) = m • f x :=
   map_smul f m x
 #align mul_action_hom.map_smul MulActionHom.map_smul
 
 @[ext]
-theorem ext {f g : X →[M'] Y} : (∀ x, f x = g x) → f = g :=
+theorem ext [MulActionSemiHomClass F φ X Y] {f g : F} :
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Hom.lean:304]: OK, but with ->e[phi]  (semilinear)

File: Mathlib/GroupTheory/GroupAction/Hom.lean (hunk 16 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Hom.lean:315]: Sorry, I don't understand the comment.
Should I just have `congr_fun` and `ext_iff` for the MulActionHom types, and not the use the MulActionSemiHomClass?

File: Mathlib/GroupTheory/GroupAction/Hom.lean [hunk 23]
```diff
@@ -1,212 +1,524 @@
...
-      _ = m • g (f x) := g.map_smul _ _⟩
+      g (f (m • x)) = g (φ m • f x) := by rw [map_smulₛₗ]
+      _ = ψ (φ m) • g (f x) := by rw [map_smulₛₗ]
+      _ = (ψ ∘ φ) m • g (f x) := rfl
+      _ = χ m • g (f x) := by rw [κ.comp_eq] ⟩
+
+/-- Composition of two equivariant maps. -/
+def comp (g : Y →ₑ[ψ] Z) (f : X →ₑ[φ] Y) : X →ₑ[ψ ∘ φ] Z :=
+  g.comp' f (CompTriple.comp)
 #align mul_action_hom.comp MulActionHom.comp
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Hom.lean:372]: I'll try.

File: Mathlib/GroupTheory/SchurZassenhaus.lean (hunk 17 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/SchurZassenhaus.lean:64]: There are a lot of `id x` which appear when applying `map_smul` (because of the new type of equivariant maps), and they need to be rewritten.

File: Mathlib/GroupTheory/GroupAction/Hom.lean (hunk 23 above)
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Hom.lean]: I could compile what you wrote, implement the analogue for the other equivariant types. Let's see what happens in the next files.

File: Mathlib/GroupTheory/SchurZassenhaus.lean (hunk 17 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/SchurZassenhaus.lean:64]: Maybe, we should rw `map_smul` when there is no `id`, and `map_smul_sl` otherwise.

File: Mathlib/GroupTheory/GroupAction/Hom.lean (hunk 12 above)
Comment (Vierkantor) [reply Mathlib/GroupTheory/GroupAction/Hom.lean]: Either singular or plural works for me!

File: Mathlib/Algebra/MonoidAlgebra/Basic.lean [hunk 24]
```diff
@@ -702,7 +703,7 @@ def liftMagma [Module k A] [IsScalarTower k A A] [SMulCommClass k A A] :
         -- Porting note: `dsimp` is required for beta reduction.
         dsimp only []
         rw [Finsupp.smul_sum, sum_smul_index']
-        · simp_rw [smul_assoc]
+        · simp_rw [smul_assoc, MonoidHom.id_apply, id_eq]
```
Comment (Vierkantor) [inline Mathlib/Algebra/MonoidAlgebra/Basic.lean:706]: To fix the build:
```suggestion
        · simp_rw [smul_assoc, MonoidHom.id_apply]
```

File: Mathlib/Data/Matrix/Kronecker.lean [hunk 25]
```diff
@@ -282,7 +282,8 @@ theorem kronecker_apply [Mul α] (A : Matrix l m α) (B : Matrix n p α) (i₁ i
 /-- `Matrix.kronecker` as a bilinear map. -/
 def kroneckerBilinear [CommSemiring R] [Semiring α] [Algebra R α] :
     Matrix l m α →ₗ[R] Matrix n p α →ₗ[R] Matrix (l × n) (m × p) α :=
-  kroneckerMapBilinear (Algebra.lmul R α)
+  kroneckerMapBilinear (Algebra.lmul R α).toLinearMap
+  -- ACL : why is it neessary to specify .toLinearMap ?
```
Comment (Vierkantor) [inline Mathlib/Data/Matrix/Kronecker.lean:286]: Let's try to debug this in the hope it helps with the rest of the issues.

On the `master` branch this coercion goes `AlgHom → NonUnitalAlgHom → DistribMulActionHom → LinearMap`. Here it looks like we get to `CoeTC (α →+[R] Module.End R α) (α →ₗ[R] α →ₗ[R] α)` which fails to find the right instance and so we can't find the coercion. On master the trace is:
```lean
  [] ✅ apply @instCoeOTC_1 to CoeOTC (α →+[R] Module.End R α) (α →ₗ[R] α →ₗ[R] α) ▼
    [tryResolve] ✅ CoeOTC (α →+[R] Module.End R α) (α →ₗ[R] α →ₗ[R] α) ≟ CoeOTC (α →+[R] Module.End R α) (α →ₗ[R] α →ₗ[R] α)
    [] new goal CoeTC (α →+[R] Module.End R α) (α →ₗ[R] α →ₗ[R] α) ▼
      [instances] #[@instCoeTC, @instCoeTC_1, @instCoeTC_2, @DistribMulActionHom.instCoeTCDistribMulActionHomToMonoidToMonoidWithZeroToAddMonoidToDistribMulActionToAddMonoidToDistribMulActionLinearMapIdToNonAssocSemiring]
```
on this branch:
```lean
  [] ✅ apply @instCoeOTC_1 to CoeOTC (α →+[R] Module.End R α) (α →ₗ[R] α →ₗ[R] α) ▼
    [tryResolve] ✅ CoeOTC (α →+[R] Module.End R α) (α →ₗ[R] α →ₗ[R] α) ≟ CoeOTC (α →+[R] Module.End R α) (α →ₗ[R] α →ₗ[R] α)
    [] new goal CoeTC (α →+[R] Module.End R α) (α →ₗ[R] α →ₗ[R] α) ▼
      [instances] #[@instCoeTC, @instCoeTC_1, @instCoeTC_2]
```
So the question is why `DistribMulActionHom.instCoeTCDistribMulActionHomToMonoidToMonoidWithZeroToAddMonoidToDistribMulActionToAddMonoidToDistribMulActionLinearMapIdToNonAssocSemiring` isn't considered as possible instance. It turns out the instance is actually changed slightly, `Mathlib/Algebra/Module/LinearMap.lean:677`:
```diff
- instance : CoeTC (M →+[R] M₂) (M →ₗ[R] M₂) :=
+ instance : Coe (M →ₑ+[σ.toMonoidHom] M₂) (M →ₛₗ[σ] M₂) :=
```
so let's instead look at the part of the trace where `Coe` instances are considered:
```lean
  [] ✅ apply @instCoeTC_1 to CoeTC (α →+[R] Module.End R α) (α →ₗ[R] α →ₗ[R] α) ▼
    [tryResolve] ✅ CoeTC (α →+[R] Module.End R α) (α →ₗ[R] α →ₗ[R] α) ≟ CoeTC (α →+[R] Module.End R α) (α →ₗ[R] α →ₗ[R] α)
    [] no instances for Coe (α →+[R] Module.End R α) (α →ₗ[R] α →ₗ[R] α) ▼
      [instances] #[]
```
again, no instances! So it seems that the instance we want is somewhere else in the discrimination tree, and therefore cannot be found. My suspicion is that it doesn't see that `M →ₑ+[MonoidHom.id R] M₂` can unify with `M →ₑ+[(?σ).toMonoidHom] M₂`.

So to fix the coercion, I think the most direct way is to add an additional `Coe` instance specialized to the non-semi `DistribMulActionHom` and `LinearMap`. In addition, it is very surprising we don't have a general instance `[SemiLinearMapClass F σ M N] : CoeHead F (M →\sl [σ] N)`, like we do for basically any other of these morphism classes. I think I'll try to add the latter on a new branch off of master and see what breaks.

Comment (Vierkantor) [reply Mathlib/Data/Matrix/Kronecker.lean:286]: To see which coercions were used on the master branch: use the `#print kroneckerBilinear` command after this definition, and then click on the coercion arrows to see their definition.

To see the typeclass trace: use the `set_option trace.Meta.synthInstance true` before this definition, and match this up with what you expect to see. Here I found it useful to run the same command in another copy of mathlib where i have checked out the master branch, so I could easily compare the output. I searched for each instance we'd expect the search to apply, and if I couldn't find it I looked higher up in the trace to find out why. The instance search algorithm for coercions is a bit hard to follow because of all the `CoeT`, `CoeTC`, `CoeHTCT` classes that have nondescriptively named instances, so I typically resort to trial and error to find what I really care about.

Comment (Vierkantor) [reply Mathlib/Data/Matrix/Kronecker.lean:286]: Indeed, merging #10758 into this branch seems to fix the issue. I took the liberty of pushing my merge to your branch: feel free to revert!

File: Mathlib/Algebra/Algebra/NonUnitalHom.lean [hunk 26]
```diff
@@ -79,184 +97,192 @@ namespace NonUnitalAlgHomClass
...
+instance (priority := 100) {F : Type*} [FunLike F A B]
+    [NonUnitalAlgSemiHomClass (R := R) (S := S) F φ A B] :
+    SemilinearMapClass F φ A B :=
+  { ‹NonUnitalAlgSemiHomClass F φ A B› with map_smulₛₗ := map_smulₛₗ }
 
-instance {F R A B : Type*} [Monoid R] [NonUnitalNonAssocSemiring A] [DistribMulAction R A]
+-- TODO (ACL) : Why is this needed? Adjust priority?
+instance (priority := 100) {F : Type*} [FunLike F A B] [Module R B] [NonUnitalAlgHomClass F R A B] :
+    LinearMapClass F R A B :=
+  { ‹NonUnitalAlgHomClass F R A B› with map_smulₛₗ := map_smulₛₗ }
```
Comment (Vierkantor) [inline Mathlib/Algebra/Algebra/NonUnitalHom.lean:122]: Priority 100 looks good to me.

The reason we need this instance is because the `SemilinearMapClass` instance is about `↑(φ : RingHom R S) : MonoidHom R S` and Lean doesn't see that `↑RingHom.id = MonoidHom.id`. (Much like the problem with `DistribMulActionHomClass` we saw below. The easiest resolution is to keep a pair of instances for the semi case and the non-semi case. Alternatively, all the classes need to be more generic in what they accept: either turning all these arguments into plain functions `R → S`. Or perhaps we can use classes here too...

File: Mathlib/LinearAlgebra/Basis.lean [hunk 27]
```diff
@@ -1247,8 +1247,9 @@ theorem coord_unitsSMul (e : Basis ι R₂ M) (w : ι → R₂ˣ) (i : ι) :
     trans ((unitsSMul e w).coord i) ((w j)⁻¹ • (unitsSMul e w) j)
     · congr
       simp [Basis.unitsSMul, ← mul_smul]
-    simp only [Basis.coord_apply, LinearMap.smul_apply, Basis.repr_self, Units.smul_def,
-      map_smul, Finsupp.single_apply]
+    simp only [Basis.coord_apply, LinearMap.smul_apply, Basis.repr_self, Units.smul_def]
+    simp only [map_smulₛₗ, RingHom.id_apply, repr_self, Finsupp.smul_single, smul_eq_mul,
+      mul_one, ne_eq, Finsupp.single_apply]
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Basis.lean:1252]: This can also be reverted.
```suggestion
    simp only [Basis.coord_apply, LinearMap.smul_apply, Basis.repr_self, Units.smul_def,
      map_smul, Finsupp.single_apply]
```

File: Mathlib/GroupTheory/SchurZassenhaus.lean (hunk 17 above)
Comment (Vierkantor) [reply Mathlib/GroupTheory/SchurZassenhaus.lean:64]: No longer needed:
```suggestion
    MonoidHom.id_apply, toPerm_symm_apply, MonoidHom.coe_mk, OneHom.coe_mk]
```

File: Mathlib/GroupTheory/SchurZassenhaus.lean [hunk 28]
```diff
@@ -85,9 +85,11 @@ theorem smul_diff' (h : H) :
...
   rw [diff, diff, index_eq_card, ← Finset.card_univ, ← Finset.prod_const, ← Finset.prod_mul_distrib]
   refine' Finset.prod_congr rfl fun q _ => _
-  simp_rw [Subtype.ext_iff, MonoidHom.id_apply, coe_mul, mul_assoc, mul_right_inj]
-  rw [smul_apply_eq_smul_apply_inv_smul, smul_eq_mul_unop, MulOpposite.unop_op, mul_left_inj,
-    ← Subtype.ext_iff, Equiv.apply_eq_iff_eq, inv_smul_eq_iff]
+  simp only [MonoidHom.id_apply, id_eq, Subtype.ext_iff, Submonoid.coe_mul,
+    coe_toSubmonoid, mul_assoc, mul_right_inj]
+  rw [smul_apply_eq_smul_apply_inv_smul, smul_eq_mul_unop]
+  simp only [MulOpposite.unop_op, mul_left_inj]
+  rw [← Subtype.ext_iff, Equiv.apply_eq_iff_eq, inv_smul_eq_iff]
```
Comment (Vierkantor) [inline Mathlib/GroupTheory/SchurZassenhaus.lean:92]:
```suggestion
  simp_rw [Subtype.ext_iff, MonoidHom.id_apply, coe_mul, mul_assoc, mul_right_inj]
  rw [smul_apply_eq_smul_apply_inv_smul, smul_eq_mul_unop, MulOpposite.unop_op, mul_left_inj,
    ← Subtype.ext_iff, Equiv.apply_eq_iff_eq, inv_smul_eq_iff]
```

File: Mathlib/GroupTheory/FreeGroup/IsFreeGroup.lean [hunk 29]
```diff
@@ -141,13 +141,13 @@ def ofLift {G : Type u} [Group G] (X : Type u) (of : X → G)
...
-          lift_of])
+          lift_of, id_eq])
       (by
         let lift_symm_of : ∀ {H : Type u} [Group H], ∀ (f : G →* H) (a), lift.symm f a = f (of a) :=
           by intro H _ f a; simp [← lift_of (lift.symm f)]
         apply lift.symm.injective; ext x
-        simp only [MonoidHom.coe_comp, Function.comp_apply, MonoidHom.id_apply, FreeGroup.lift.of,
-          lift_of, lift_symm_of])
+        simp only [lift_symm_of, MonoidHom.coe_comp, comp_apply, lift_of, FreeGroup.lift.of,
+          MonoidHom.id_apply, id_eq])
```
Comment (Vierkantor) [inline Mathlib/GroupTheory/FreeGroup/IsFreeGroup.lean:150]:
```suggestion
        simp only [MonoidHom.coe_comp, Function.comp_apply, MonoidHom.id_apply, FreeGroup.lift.of,
          lift_of, lift_symm_of])
```

File: Mathlib/GroupTheory/FreeGroup/IsFreeGroup.lean [hunk 30]
```diff
@@ -141,13 +141,13 @@ def ofLift {G : Type u} [Group G] (X : Type u) (of : X → G)
       (by
         apply FreeGroup.ext_hom; intro x
         simp only [MonoidHom.coe_comp, Function.comp_apply, MonoidHom.id_apply, FreeGroup.lift.of,
-          lift_of])
+          lift_of, id_eq])
```
Comment (Vierkantor) [inline Mathlib/GroupTheory/FreeGroup/IsFreeGroup.lean:144]:
```suggestion
          lift_of])
```

File: Mathlib/GroupTheory/FreeAbelianGroupFinsupp.lean [hunk 31]
```diff
@@ -67,13 +67,14 @@ theorem Finsupp.toFreeAbelianGroup_comp_toFinsupp :
   ext
   rw [toFreeAbelianGroup, toFinsupp, AddMonoidHom.comp_apply, lift.of,
     liftAddHom_apply_single, AddMonoidHom.flip_apply, smulAddHom_apply, one_smul,
-    AddMonoidHom.id_apply]
+    AddMonoidHom.id_apply, id_eq]
```
Comment (Vierkantor) [inline Mathlib/GroupTheory/FreeAbelianGroupFinsupp.lean:70]:
```suggestion
    AddMonoidHom.id_apply]
```

File: Mathlib/GroupTheory/FreeAbelianGroupFinsupp.lean [hunk 32]
```diff
@@ -67,13 +67,14 @@ theorem Finsupp.toFreeAbelianGroup_comp_toFinsupp :
...
 #align finsupp.to_free_abelian_group_comp_to_finsupp Finsupp.toFreeAbelianGroup_comp_toFinsupp
 
 @[simp]
 theorem Finsupp.toFreeAbelianGroup_toFinsupp {X} (x : FreeAbelianGroup X) :
     Finsupp.toFreeAbelianGroup (FreeAbelianGroup.toFinsupp x) = x := by
-  rw [← AddMonoidHom.comp_apply, Finsupp.toFreeAbelianGroup_comp_toFinsupp, AddMonoidHom.id_apply]
+  rw [← AddMonoidHom.comp_apply, Finsupp.toFreeAbelianGroup_comp_toFinsupp,
+    AddMonoidHom.id_apply, id_eq]
```
Comment (Vierkantor) [inline Mathlib/GroupTheory/FreeAbelianGroupFinsupp.lean:77]:
```suggestion
    AddMonoidHom.id_apply]
```

File: Mathlib/GroupTheory/FreeAbelianGroupFinsupp.lean [hunk 33]
```diff
@@ -88,7 +89,7 @@ theorem toFinsupp_of (x : X) : toFinsupp (of x) = Finsupp.single x 1 := by
 @[simp]
 theorem toFinsupp_toFreeAbelianGroup (f : X →₀ ℤ) :
     FreeAbelianGroup.toFinsupp (Finsupp.toFreeAbelianGroup f) = f := by
-  rw [← AddMonoidHom.comp_apply, toFinsupp_comp_toFreeAbelianGroup, AddMonoidHom.id_apply]
+  rw [← AddMonoidHom.comp_apply, toFinsupp_comp_toFreeAbelianGroup, AddMonoidHom.id_apply, id_eq]
```
Comment (Vierkantor) [inline Mathlib/GroupTheory/FreeAbelianGroupFinsupp.lean:92]:
```suggestion
  rw [← AddMonoidHom.comp_apply, toFinsupp_comp_toFreeAbelianGroup, AddMonoidHom.id_apply]
```

File: Mathlib/FieldTheory/Minpoly/Field.lean [hunk 34]
```diff
@@ -180,7 +180,9 @@ def rootsOfMinPolyPiType (φ : E →ₐ[F] K)
 
 theorem aux_inj_roots_of_min_poly : Injective (rootsOfMinPolyPiType F E K) := by
   intro f g h
-  suffices (f : E →ₗ[F] K) = g by rwa [DFunLike.ext'_iff] at this ⊢
+-- ACL : why is this coercion broken ?
+--  suffices (f : E →ₗ[F] K) = g by rwa [FunLike.ext'_iff] at this ⊢
+  suffices f.toLinearMap = g.toLinearMap by rwa [DFunLike.ext'_iff] at this ⊢
```
Comment (Vierkantor) [inline Mathlib/FieldTheory/Minpoly/Field.lean:185]:
```suggestion
  suffices (f : E →ₗ[F] K) = g by rwa [DFunLike.ext'_iff] at this ⊢
```

File: Mathlib/CategoryTheory/Monoidal/Internal/Module.lean [hunk 35]
```diff
@@ -152,9 +152,10 @@ def inverseObj (A : AlgebraCat.{u} R) : Mon_ (ModuleCat.{u} R) where
       CategoryTheory.comp_apply, CategoryTheory.comp_apply]
     erw [LinearMap.mul'_apply, LinearMap.mul'_apply]
     erw [id_apply]
-    erw [TensorProduct.mk_apply, TensorProduct.mk_apply, id_apply, LinearMap.mul'_apply,
-      LinearMap.mul'_apply]
+    erw [TensorProduct.mk_apply, TensorProduct.mk_apply, id_apply, LinearMap.mul'_apply]
+    simp only [id_coe, id_eq, AddHom.toFun_eq_coe, coe_toAddHom]
     simp only [LinearMap.mul'_apply, mul_assoc]
+    exact rfl
```
Comment (Vierkantor) [inline Mathlib/CategoryTheory/Monoidal/Internal/Module.lean:158]: Can be simplified to:
```suggestion
    erw [TensorProduct.mk_apply, TensorProduct.mk_apply, mul'_apply, id_apply, mul'_apply]
    simp only [mul_assoc]
```

File: Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean [hunk 36]
```diff
@@ -124,16 +124,14 @@ theorem exists_continuousLinearEquiv_apply_eq [ContinuousSMul R V]
     map_add' := fun a b ↦ by simp [add_smul]; abel
     map_smul' := by simp [smul_smul]
     left_inv := fun z ↦ by
-      simp only [id_eq, eq_mpr_eq_cast, RingHom.id_apply, smul_eq_mul, AddHom.toFun_eq_coe,
-        -- Note: #8386 had to change `map_smulₛₗ` into `map_smulₛₗ _`
-        AddHom.coe_mk, map_add, map_smulₛₗ _, map_sub, Gx, mul_sub, mul_one, add_sub_cancel'_right]
+      simp only [map_add, LinearMapClass.map_smul, map_sub, smul_eq_mul]
+      simp only [Gx, mul_sub, mul_one, add_sub_cancel'_right]
```
Comment (Vierkantor) [inline Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean:128]: This is a nice improvement, Let's group the `simp only` together into one call:
```suggestion
      simp only [map_add, LinearMapClass.map_smul, map_sub, smul_eq_mul, Gx, mul_sub, mul_one,
        add_sub_cancel'_right]
```

File: Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean [hunk 37]
```diff
@@ -124,16 +124,14 @@ theorem exists_continuousLinearEquiv_apply_eq [ContinuousSMul R V]
...
       rw [mul_comm (G z), ← mul_assoc, inv_mul_cancel Gy]
       simp only [smul_sub, one_mul]
       abel
     right_inv := fun z ↦ by
-        -- Note: #8386 had to change `map_smulₛₗ` into `map_smulₛₗ _`
-      simp only [map_add, map_smulₛₗ _, map_mul, map_inv₀, RingHom.id_apply, map_sub, Gx,
-        smul_eq_mul, mul_sub, mul_one]
+      simp only [map_add, LinearMapClass.map_smul, map_sub, smul_eq_mul]
+      simp only [Gx, mul_sub, mul_one]
```
Comment (Vierkantor) [inline Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean:134]:
```suggestion
      simp only [map_add, LinearMapClass.map_smul, map_sub, smul_eq_mul, Gx, mul_sub, mul_one]
```

File: Mathlib/Analysis/NormedSpace/LinearIsometry.lean [hunk 38]
```diff
@@ -1150,7 +1150,9 @@ def prodAssoc [Module R E₂] [Module R E₃] : (E × E₂) × E₃ ≃ₗᵢ[R]
     toFun := Equiv.prodAssoc E E₂ E₃
     invFun := (Equiv.prodAssoc E E₂ E₃).symm
     map_add' := by simp [-_root_.map_add] --  Fix timeout from #8386
-    map_smul' := by simp
+    map_smul' := by
+      rintro m ⟨⟨e, f⟩, g⟩
+      simp only [Prod.smul_mk, Equiv.prodAssoc_apply, RingHom.id_apply]
```
Comment (Vierkantor) [inline Mathlib/Analysis/NormedSpace/LinearIsometry.lean:1155]:
```suggestion
    map_smul' := by -- was `by simp` before #6057 caused that to time out.
      rintro m ⟨⟨e, f⟩, g⟩
      simp only [Prod.smul_mk, Equiv.prodAssoc_apply, RingHom.id_apply]
```

File: Mathlib/Analysis/SpecialFunctions/Bernstein.lean [hunk 39]
```diff
@@ -108,8 +108,10 @@ local postfix:90 "/ₙ" => z
 theorem probability (n : ℕ) (x : I) : (∑ k : Fin (n + 1), bernstein n k x) = 1 := by
   have := bernsteinPolynomial.sum ℝ n
   apply_fun fun p => Polynomial.aeval (x : ℝ) p at this
-  simp? [AlgHom.map_sum, Finset.sum_range] at this says
-    simp only [Finset.sum_range, map_sum, Polynomial.coe_aeval_eq_eval, map_one] at this
+  simp only [Finset.sum_range, map_sum, MonoidHom.coe_mk, OneHom.coe_mk,
+    Polynomial.coe_aeval_eq_eval, map_one] at this  -- says
+--  simp? [AlgHom.map_sum, Finset.sum_range] at this says
+--    simp only [Finset.sum_range, map_sum, Polynomial.coe_aeval_eq_eval, map_one] at this
```
Comment (Vierkantor) [inline Mathlib/Analysis/SpecialFunctions/Bernstein.lean:114]:
```suggestion
  simp? [AlgHom.map_sum, Finset.sum_range] at this says
    simp only [Finset.sum_range, map_sum, Polynomial.coe_aeval_eq_eval, map_one] at this
```

File: Mathlib/Analysis/SpecialFunctions/Bernstein.lean [hunk 40]
```diff
@@ -123,9 +125,12 @@ theorem variance {n : ℕ} (h : 0 < (n : ℝ)) (x : I) :
...
   apply_fun fun p => Polynomial.aeval (x : ℝ) p at this
-  simp? [AlgHom.map_sum, Finset.sum_range, ← Polynomial.nat_cast_mul] at this says
-    simp only [nsmul_eq_mul, Finset.sum_range, map_sum, map_mul, map_pow, map_sub, map_natCast,
-      Polynomial.aeval_X, Polynomial.coe_aeval_eq_eval, map_one] at this
+  simp only [nsmul_eq_mul, Finset.sum_range, map_sum, MonoidHom.coe_mk,
+    OneHom.coe_mk, map_mul, map_pow, map_sub, map_natCast, Polynomial.aeval_X,
+    Polynomial.coe_aeval_eq_eval, map_one] at this
+--  simp? [AlgHom.map_sum, Finset.sum_range, ← Polynomial.nat_cast_mul] at this says
+--    simp only [nsmul_eq_mul, Finset.sum_range, map_sum, map_mul, map_pow, map_sub, map_natCast,
+--      Polynomial.aeval_X, Polynomial.coe_aeval_eq_eval, map_one] at this
```
Comment (Vierkantor) [inline Mathlib/Analysis/SpecialFunctions/Bernstein.lean:133]:
```suggestion
  simp? [AlgHom.map_sum, Finset.sum_range, ← Polynomial.nat_cast_mul] at this says
    simp only [nsmul_eq_mul, Finset.sum_range, map_sum, map_mul, map_pow, map_sub, map_natCast,
      Polynomial.aeval_X, Polynomial.coe_aeval_eq_eval, map_one] at this
```

File: Mathlib/GroupTheory/CoprodI.lean [hunk 41]
```diff
@@ -194,7 +194,7 @@ theorem induction_on {C : CoprodI M → Prop} (m : CoprodI M) (h_one : C 1)
 
 theorem of_leftInverse [DecidableEq ι] (i : ι) :
     Function.LeftInverse (lift <| Pi.mulSingle i (MonoidHom.id (M i))) of := fun x => by
-  simp only [lift_of, Pi.mulSingle_eq_same, MonoidHom.id_apply]
+  simp only [lift_of, Pi.mulSingle_eq_same, MonoidHom.id_apply, id_eq]
```
Comment (Vierkantor) [inline Mathlib/GroupTheory/CoprodI.lean:197]:
```suggestion
  simp only [lift_of, Pi.mulSingle_eq_same, MonoidHom.id_apply]
```

**Review by Vierkantor — COMMENTED** [review]
This PR is starting to look good: I went through all the files and tried to figure out which fixes can be reverted, and there's barely any regressions now!

File: Mathlib/Data/Matrix/Kronecker.lean (hunk 25 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Matrix/Kronecker.lean:286]: Thanks!

File: Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean [hunk 42]
```diff
@@ -312,12 +312,18 @@ def toSubmoduleEquiv (S : NonUnitalSubalgebra R A) : S.toSubmodule ≃ₗ[R] S :
 
 variable [FunLike F A B] [NonUnitalAlgHomClass F R A B]
 
+/-- The LinearMap underlying a NonUnitalAlgHom -/
+def _root_.NonUnitalAlgHomClass.toLinearMap (f : F) : A →ₗ[R] B where
+  toFun := f
+  map_add' := map_add f
+  map_smul' := map_smulₛₗ f
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean:319]: Why not, yes.

[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean:319]: In fact, `exact?` finds `exact LinearMapClass.linearMap f`
so I wonder whether we have to add it explicitly. What do you think?

[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Algebra/NonUnitalSubalgebra.lean:319]: And since the dot notation does not work and it is shorter to write `LinearMapClass.linearMap f` than `NonUnialAlgHomClass.toLinearMap f`, I delete it.

File: Mathlib/Algebra/Algebra/Unitization.lean [hunk 43]
```diff
@@ -771,12 +787,21 @@ def starLift : (A →⋆ₙₐ[R] C) ≃ (Unitization R A →⋆ₐ[R] C) :=
...
     map_star' := fun x => by
       induction x using Unitization.ind
-      simp [map_star] }
+      -- simp [map_star]
+      simp only [MonoidHom.coe_mk, OneHom.coe_mk, lift, AlgHom.toNonUnitalAlgHom_eq_coe,
+        Equiv.coe_fn_mk, AlgHom.toRingHom_eq_coe, RingHom.toMonoidHom_eq_coe, star_add,
+        OneHom.toFun_eq_coe, MonoidHom.toOneHom_coe, MonoidHom.coe_coe, map_add, RingHom.coe_coe,
+        NonUnitalAlgHom.toAlgHom_apply, fst_star, fst_inl, algebraMap_star_comm, snd_star, snd_inl,
+        star_zero, map_zero, add_zero, fst_inr, snd_inr, zero_add]
+      rw [NonUnitalStarAlgHom.coe_toNonUnitalAlgHom, map_star] }
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Algebra/Unitization.lean:796]: adopted.

File: Mathlib/Algebra/Algebra/Unitization.lean [hunk 44]
```diff
@@ -763,6 +776,9 @@ theorem starAlgHom_ext {φ ψ : Unitization R A →⋆ₐ[R] C}
     φ = ψ :=
   Unitization.algHom_ext'' <| DFunLike.congr_fun h
 
+example (φ : A →⋆ₙₐ[R] C) (a : A) : φ.toNonUnitalAlgHom a = φ a := by
+  rw [← NonUnitalStarAlgHom.coe_toNonUnitalAlgHom]
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Algebra/Unitization.lean:780]: No, just a residue of my work on the next lemma… Idelete it.

File: Mathlib/Algebra/Algebra/Unitization.lean [hunk 45]
```diff
@@ -771,12 +787,21 @@ def starLift : (A →⋆ₙₐ[R] C) ≃ (Unitization R A →⋆ₐ[R] C) :=
...
-  left_inv := fun φ => by ext; simp,
-  right_inv := fun φ => Unitization.algHom_ext'' <| by simp }
+  left_inv := fun φ => by -- ext; simp,
+    ext
+    simp [lift]
+  right_inv := fun φ => Unitization.algHom_ext'' <| by
+    simp [lift] }
 
-@[simp]
+-- @[simp]
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Algebra/Unitization.lean:804]: I'll try.

File: Mathlib/Algebra/Module/LinearMap/Basic.lean [hunk 46]
```diff
@@ -112,13 +116,15 @@ See also `LinearMapClass F R M M₂` for the case where `σ` is the identity map
...
-  map_smulₛₗ : ∀ (f : F) (r : R) (x : M), f (r • x) = σ r • f x
+class SemilinearMapClass (F : Type*)
+    {R S : outParam (Type*)} [Semiring R] [Semiring S] (σ : outParam (R →+* S))
+    (M M₂ : outParam (Type*)) [AddCommMonoid M] [AddCommMonoid M₂]
+    [Module R M] [Module S M₂] [FunLike F M M₂]
+    extends AddHomClass F M M₂, MulActionSemiHomClass F σ M M₂ : Prop
+  -- where
+  -- /-- A semilinear map preserves scalar multiplication up to some ring homomorphism `σ`.
+  -- See also `_root_.map_smul` for the case where `σ` is the identity. -/
+  -- map_smulₛₗ : ∀ (f : F) (r : R) (x : M), f (r • x) = σ r • f x
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Module/LinearMap/Basic.lean:127]: I deleted that one, and another one, but didn't find a third one…

File: Mathlib/Algebra/Module/LinearMap/Basic.lean [hunk 47]
```diff
@@ -142,6 +151,13 @@ abbrev LinearMapClass (F : Type*) (R : outParam (Type*)) (M M₂ : Type*)
   SemilinearMapClass F (RingHom.id R) M M₂
 #align linear_map_class LinearMapClass
 
+-- @[simp]
+protected lemma LinearMapClass.map_smul {R M M₂ : outParam (Type*)} [Semiring R] [AddCommMonoid M]
+    [AddCommMonoid M₂] [Module R M] [Module R M₂]
+    {F : Type*} [FunLike F M M₂] [LinearMapClass F R M M₂] (f : F) (r : R) (x : M) :
+    f (r • x) = r • f x := by
+      rw [map_smulₛₗ, RingHom.id_apply]
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Module/LinearMap/Basic.lean:159]: Yes, that that spares the `RingHom.id_apply`. But nowhere else in this file, apparently…

File: Mathlib/RingTheory/ClassGroup.lean [hunk 48]
```diff
@@ -333,6 +333,21 @@ theorem ClassGroup.mk0_integralRep [IsDedekindDomain R]
...
+    IsFractionRing.to_map_ne_zero_of_mem_nonZeroDivisors a_ne_zero'
+  symm
+  apply Quotient.sound
+  change @Setoid.r _
+    (QuotientGroup.leftRel (toPrincipalIdeal R (FractionRing R)).range) _ _
+  rw [canonicalEquiv_self, RingEquiv.coe_monoidHom_refl, Units.map_id, MonoidHom.id_apply,
+      MonoidHom.id_apply, QuotientGroup.leftRel_apply]
+  refine ⟨Units.mk0 (algebraMap R _ a) fa_ne_zero, ?_⟩
+  rw [_root_.eq_inv_mul_iff_mul_eq, eq_comm, id_eq, id_eq, mul_comm I]
+-/
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/ClassGroup.lean:350]: OK.

File: Mathlib/Data/IsROrC/Basic.lean [hunk 49]
```diff
@@ -849,17 +849,18 @@ noncomputable instance Real.isROrC : IsROrC ℝ where
   I := 0
   I_re_ax := by simp only [AddMonoidHom.map_zero]
   I_mul_I_ax := Or.intro_left _ rfl
-  re_add_im_ax z := by
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Data/IsROrC/Basic.lean:852]: yes, 3 times.

File: Mathlib/Logic/Function/Iterate.lean [hunk 50]
```diff
@@ -82,7 +82,8 @@ theorem iterate_add_apply (m n : ℕ) (x : α) : f^[m + n] x = f^[m] (f^[n] x) :
   rfl
 #align function.iterate_add_apply Function.iterate_add_apply
 
-@[simp]
+-- remove [simp] tag because simp already proves it
+-- @[simp]
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Logic/Function/Iterate.lean:86]: I'll try.

File: Mathlib/LinearAlgebra/PiTensorProduct.lean [hunk 51]
```diff
@@ -543,7 +545,7 @@ def isEmptyEquiv [IsEmpty ι] : (⨂[R] i : ι, s i) ≃ₗ[R] R where
       simp only [map_smulₛₗ _, RingHom.id_apply, lift.tprod, constOfIsEmpty_apply, const_apply,
         smul_eq_mul, mul_one]
       congr
-      aesop
+      simp only [Unique.uniq _]
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/PiTensorProduct.lean:633]: But is it really better to invoke aesop when a simple `simp` works?

File: Mathlib/Logic/Function/Iterate.lean (hunk 50 above)
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Logic/Function/Iterate.lean]: `simp only [iterate_succ, iterate_zero, id_comp]`proves it (of course…)

Putting the statement before `iterate_succ` did not suffice to make the linter happy.

File: Mathlib/FieldTheory/Minpoly/Field.lean (hunk 34 above)
Comment (AntoineChambert-Loir) [reply Mathlib/FieldTheory/Minpoly/Field.lean]: That did not suffice, I had to coerce both sides… : `(f : …) = (g : …) `

File: Mathlib/Algebra/Algebra/Unitization.lean [hunk 52]
```diff
@@ -773,8 +773,11 @@ def starLift : (A →⋆ₙₐ[R] C) ≃ (Unitization R A →⋆ₐ[R] C) :=
       induction x using Unitization.ind
       simp [map_star] }
   invFun := fun φ ↦ φ.toNonUnitalStarAlgHom.comp (inrNonUnitalStarAlgHom R A),
-  left_inv := fun φ => by ext; simp,
-  right_inv := fun φ => Unitization.algHom_ext'' <| by simp }
+  left_inv := fun φ => by -- ext; simp,
+    ext
+    simp
+  right_inv := fun φ => Unitization.algHom_ext'' <| by
+    simp }
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Algebra/Unitization.lean:780]: These changes don't seem necessary

File: Mathlib/Algebra/DualQuaternion.lean [hunk 53]
```diff
@@ -24,7 +24,6 @@ rigid motions in 3D space can be represented by dual quaternions of unit length.
 * <https://en.wikipedia.org/wiki/Dual_quaternion>
 -/
 
-
 variable {R : Type*} [CommRing R]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/DualQuaternion.lean:27]: This is already a very big PR. I'd recommend against making whitespace changes in files you're not otherwise changing in this PR.

File: Mathlib/Algebra/Group/Hom/CompTypeclasses.lean [hunk 54]
```diff
@@ -0,0 +1,110 @@
...
+
+attribute [simp] CompTriple.comp_eq
+
+namespace CompTriple
+
+variable {M' : Type*} [Monoid M']
+variable {M N P : Type*} [Monoid M] [Monoid N] [Monoid P]
+
+/-- Class of Id maps -/
+class isId (σ : M →* M) : Prop where
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Group/Hom/CompTypeclasses.lean:60]: Shouldn't this be `IsId`?

File: Mathlib/Algebra/Group/Hom/CompTypeclasses.lean [hunk 55]
```diff
@@ -0,0 +1,110 @@
...
+  eq_id : σ = MonoidHom.id M
+
+instance {M : Type*} [Monoid M] : isId (MonoidHom.id M) where
+  eq_id := rfl
+
+instance {σ : M →* M} [isId σ] : CompTriple.isId σ := {
+  eq_id := by simp only [isId.eq_id, MonoidHom.coe_mk, OneHom.coe_mk] }
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Group/Hom/CompTypeclasses.lean:67]: I don't think we use `{` at the end of the previous line anywhere. Let's use `where` for all these.

File: Mathlib/Algebra/Group/Hom/CompTypeclasses.lean [hunk 56]
```diff
@@ -0,0 +1,110 @@
...
+
+instance {φ : M →* N} {ψ : N  →* P} {χ : M →* P} [κ : CompTriple φ ψ χ] :
+    _root_.CompTriple φ ψ χ := {
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Group/Hom/CompTypeclasses.lean:70]: Doesn't this work?
```suggestion
    CompTriple φ ψ χ := {
```

File: Mathlib/Algebra/Group/Hom/CompTypeclasses.lean [hunk 57]
```diff
@@ -0,0 +1,110 @@
...
+    {φ : M →* N} {ψ : N →* N} [isId ψ] :
+    CompTriple φ ψ φ := {
+  comp_eq := by simp only [isId.eq_id, MonoidHom.id_comp] }
+
+lemma comp_inv {φ : M →* N} {ψ : N →* M} (h : Function.RightInverse φ ψ)
+    {χ : M →* M} [isId χ] :
+    CompTriple φ ψ χ := {
+  comp_eq := by
+    simp only [isId.eq_id, ← DFunLike.coe_fn_eq, coe_comp, h.id]
+    rfl }
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Group/Hom/CompTypeclasses.lean:91]: What's left to prove after the `simp`?

File: Mathlib/Algebra/Group/Hom/CompTypeclasses.lean [hunk 58]
```diff
@@ -0,0 +1,110 @@
...
+theorem comp_assoc {Q : Type*} [Monoid Q]
+    {φ₁ : M →* N} {φ₂ : N →* P} {φ₁₂ : M →* P}
+    (κ : CompTriple φ₁ φ₂ φ₁₂)
+    {φ₃ : P →* Q} {φ₂₃ : N →* Q} (κ' : CompTriple φ₂ φ₃ φ₂₃)
+    {φ₁₂₃ : M →* Q} :
+    CompTriple φ₁ φ₂₃ φ₁₂₃ ↔ CompTriple φ₁₂ φ₃ φ₁₂₃ := by
+  constructor
+  all_goals {
+    rintro ⟨h⟩
+    exact ⟨ by simp only [← κ.comp_eq, ← h, ← κ'.comp_eq]; rfl ⟩ }
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Group/Hom/CompTypeclasses.lean:108]:
```suggestion
  constructor <;>
  · rintro ⟨h⟩
    exact ⟨by simp only [← κ.comp_eq, ← h, ← κ'.comp_eq]; rfl⟩
```
but same question about `simp` not finishing the proof

File: Mathlib/Algebra/Module/LinearMap/Basic.lean [hunk 59]
```diff
@@ -84,12 +84,16 @@ is semilinear if it satisfies the two properties `f (x + y) = f x + f y` and
...
     (M₂ : Type*) [AddCommMonoid M] [AddCommMonoid M₂] [Module R M] [Module S M₂] extends
-    AddHom M M₂ where
-  /-- A linear map preserves scalar multiplication.
-  We prefer the spelling `_root_.map_smul` instead. -/
-  protected map_smul' : ∀ (r : R) (x : M), toFun (r • x) = σ r • toFun x
+    AddHom M M₂, MulActionHom σ M M₂
+-- -/ where
+--   /-- A linear map preserves scalar multiplication.
+--   We prefer the spelling `_root_.map_smul` instead. -/
+--   map_smul' : ∀ (r : R) (x : M), toFun (r • x) = σ r • toFun x
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Module/LinearMap/Basic.lean:91]: Please don't leave commented-out code

File: Mathlib/Algebra/Module/LinearMap/Basic.lean [hunk 60]
```diff
@@ -143,6 +142,12 @@ abbrev LinearMapClass (F : Type*) (R : outParam (Type*)) (M M₂ : Type*)
   SemilinearMapClass F (RingHom.id R) M M₂
 #align linear_map_class LinearMapClass
 
+-- @[simp]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Module/LinearMap/Basic.lean:145]: ?

File: Mathlib/Algebra/Module/LinearMap/Basic.lean [hunk 61]
```diff
@@ -172,11 +178,16 @@ theorem map_smul_inv {σ' : S →+* R} [RingHomInvPair σ σ'] (c : S) (x : M) :
 #align semilinear_map_class.map_smul_inv SemilinearMapClass.map_smul_inv
 
 /-- Reinterpret an element of a type of semilinear maps as a semilinear map. -/
-abbrev semilinearMap : M →ₛₗ[σ] M₃ where
+@[coe]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Module/LinearMap/Basic.lean:181]: Does this work on bundled functions?

File: Mathlib/Data/Finsupp/Basic.lean [hunk 62]
```diff
@@ -1676,12 +1676,13 @@ theorem distribMulActionHom_ext {f g : (α →₀ M) →+[R] N}
 /-- See note [partially-applied ext lemmas]. -/
 @[ext]
 theorem distribMulActionHom_ext' {f g : (α →₀ M) →+[R] N}
-    (h : ∀ a : α, f.comp (DistribMulActionHom.single a) = g.comp (DistribMulActionHom.single a)) :
+    (h : ∀ a : α, f.comp (DistribMulActionHom.single a) =
+      g.comp (DistribMulActionHom.single a)) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Finsupp/Basic.lean:1680]: Why?

File: Mathlib/Data/IsROrC/Basic.lean [hunk 63]
```diff
@@ -853,7 +853,8 @@ noncomputable instance Real.isROrC : IsROrC ℝ where
     simp only [add_zero, mul_zero, Algebra.id.map_eq_id, RingHom.id_apply, AddMonoidHom.id_apply]
   ofReal_re_ax f := rfl
   ofReal_im_ax r := rfl
-  mul_re_ax z w := by simp only [sub_zero, mul_zero, AddMonoidHom.zero_apply, AddMonoidHom.id_apply]
+  mul_re_ax z w := by simp only [sub_zero, mul_zero, AddMonoidHom.zero_apply,
+    AddMonoidHom.id_apply]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/IsROrC/Basic.lean:857]: Why?

File: Mathlib/Data/Matrix/Kronecker.lean [hunk 64]
```diff
@@ -283,6 +283,7 @@ theorem kronecker_apply [Mul α] (A : Matrix l m α) (B : Matrix n p α) (i₁ i
 def kroneckerBilinear [CommSemiring R] [Semiring α] [Algebra R α] :
     Matrix l m α →ₗ[R] Matrix n p α →ₗ[R] Matrix (l × n) (m × p) α :=
   kroneckerMapBilinear (Algebra.lmul R α)
+  -- ACL : why is it neessary to specify .toLinearMap ?
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Matrix/Kronecker.lean:286]: ?

File: Mathlib/GroupTheory/FreeAbelianGroupFinsupp.lean [hunk 65]
```diff
@@ -73,7 +73,8 @@ theorem Finsupp.toFreeAbelianGroup_comp_toFinsupp :
 @[simp]
 theorem Finsupp.toFreeAbelianGroup_toFinsupp {X} (x : FreeAbelianGroup X) :
     Finsupp.toFreeAbelianGroup (FreeAbelianGroup.toFinsupp x) = x := by
-  rw [← AddMonoidHom.comp_apply, Finsupp.toFreeAbelianGroup_comp_toFinsupp, AddMonoidHom.id_apply]
+  rw [← AddMonoidHom.comp_apply, Finsupp.toFreeAbelianGroup_comp_toFinsupp,
+    AddMonoidHom.id_apply]
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/FreeAbelianGroupFinsupp.lean:77]: Please review the entire PR for unnecessary formatting changes

File: Mathlib/Logic/Function/CompTypeclasses.lean [hunk 66]
```diff
@@ -0,0 +1,64 @@
...
+class isId {M : Type*} (σ : M → M) : Prop where
+  eq_id : σ = id
+
+instance {M : Type*} : isId (@id M) where
+  eq_id := rfl
+
+lemma comp_id {N P : Type*} {φ : N → N} [isId φ] {ψ : N → P} :
+    CompTriple φ ψ ψ := {
+  comp_eq := by simp only [isId.eq_id, Function.comp_id]}
+
```
Comment (Ruben-VandeVelde) [inline Mathlib/Logic/Function/CompTypeclasses.lean:45]: These can use `where` as well

File: Mathlib/NumberTheory/Modular.lean [hunk 67]
```diff
@@ -137,7 +137,7 @@ theorem tendsto_normSq_coprime_pair :
   rw [this]
   have hf : LinearMap.ker f = ⊥ := by
     let g : ℂ →ₗ[ℝ] Fin 2 → ℝ :=
-      LinearMap.pi ![imLm, imLm.comp ((z : ℂ) • ((conjAe : ℂ →ₐ[ℝ] ℂ) : ℂ →ₗ[ℝ] ℂ))]
+      LinearMap.pi ![imLm, imLm.comp ((z : ℂ) • ((conjAe : ℂ →ₐ[ℝ] ℂ): ℂ →ₗ[ℝ] ℂ))]
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Modular.lean:140]: Revert

File: Mathlib/GroupTheory/GroupAction/Hom.lean [hunk 68]
```diff
@@ -1,10 +1,18 @@
 /-
 Copyright (c) 2020 Kenny Lau. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: Kenny Lau
+Authors: Kenny Lau, Antoine Chambert-Loir
+
+! This file was ported from Lean 3 source module algebra.hom.group_action
+! leanprover-community/mathlib commit e7bab9a85e92cf46c02cb4725a7be2f04691e3a7
+! Please do not edit these lines, except to modify the commit id
+! if you have ported upstream changes.
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/GroupAction/Hom.lean:9]: Remove

**Review by Ruben-VandeVelde — CHANGES_REQUESTED** [review]

File: Mathlib/Algebra/DualQuaternion.lean (hunk 53 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/DualQuaternion.lean:27]: Something had changed inbetween ; I'm sorry.

File: Mathlib/GroupTheory/FreeAbelianGroupFinsupp.lean (hunk 65 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/FreeAbelianGroupFinsupp.lean:77]: I don't know how to do that… Download the original file and diff?

File: Mathlib/Algebra/Algebra/Unitization.lean (hunk 52 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Algebra/Unitization.lean:780]: Sorry, they had been at a point… I reverted. 
Should I keep the commas at the end ?

File: Mathlib/Algebra/Group/Hom/CompTypeclasses.lean (hunk 54 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Group/Hom/CompTypeclasses.lean:60]: Corrected ; in the other file  as well.

File: Mathlib/Algebra/Group/Hom/CompTypeclasses.lean (hunk 55 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Group/Hom/CompTypeclasses.lean:67]: corrected (in the other CompTypeClasses file as well)

File: Mathlib/Algebra/Group/Hom/CompTypeclasses.lean (hunk 56 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Group/Hom/CompTypeclasses.lean:70]: No, Lean thinks I mean `MonoidHom.CompTriple`, which I'm trying to define.

File: Mathlib/Algebra/Group/Hom/CompTypeclasses.lean (hunk 57 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Group/Hom/CompTypeclasses.lean:91]: `_root_.id = ⇑(id M)`

File: Mathlib/Algebra/Module/Equiv.lean [hunk 69]
```diff
@@ -283,7 +283,8 @@ def symm (e : M ≃ₛₗ[σ] M₂) : M₂ ≃ₛₗ[σ'] M :=
     e.toEquiv.symm with
     toFun := e.toLinearMap.inverse e.invFun e.left_inv e.right_inv
     invFun := e.toEquiv.symm.invFun
-    map_smul' := fun r x => by dsimp only; rw [map_smulₛₗ] }
+-- was map_smulₛₗ
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Module/Equiv.lean:286]: No, the comment could be deleted (and has been).

File: Mathlib/Algebra/Module/LinearMap/Basic.lean (hunk 60 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Module/LinearMap/Basic.lean:145]: It gives a lint error:
#check @LinearMapClass.map_smul /- simp can prove this:
  by simp only [@map_smul]

File: Mathlib/Algebra/Module/LinearMap/Basic.lean (hunk 61 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Module/LinearMap/Basic.lean:181]: I don't understand your question.

File: Mathlib/Data/Finsupp/Basic.lean (hunk 62 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finsupp/Basic.lean:1680]: My screen was probably too small, and it's a reflex for me to never go beyond 80char. I joined the lines.

File: Mathlib/Data/Matrix/Kronecker.lean (hunk 64 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Matrix/Kronecker.lean:286]: comment deleted, it is not anymore…

File: Mathlib/NumberTheory/Modular.lean (hunk 67 above)
Comment (AntoineChambert-Loir) [reply Mathlib/NumberTheory/Modular.lean:140]: done.

File: Mathlib/GroupTheory/GroupAction/Hom.lean (hunk 68 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Hom.lean:9]: Should I keep the other align lines?

File: Mathlib/Algebra/Module/LinearMap/Basic.lean (hunk 59 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Module/LinearMap/Basic.lean:91]: deleted.

**Comment by AntoineChambert-Loir** [comment]
The two failing issues are due to the linter. 
One is `iterate_one`, and the other has been added when I restored the `@[simp]` following one of the earlier comments.
I have no idea of how these should be solved adequatly, except by removing the `@[simp]` tag. 
(Lint says one can change priority : then should it be higher than 100 or lower?)

File: Mathlib/GroupTheory/SchurZassenhaus.lean [hunk 70]
```diff
@@ -60,7 +60,7 @@ theorem smul_diff_smul' [hH : Normal H] (g : Gᵐᵒᵖ) :
       map_mul' := fun h₁ h₂ => by
         simp only [Subtype.ext_iff, coe_mk, coe_mul, mul_assoc, mul_inv_cancel_left] }
   refine (Fintype.prod_equiv (MulAction.toPerm g).symm _ _ fun x ↦ ?_).trans (map_prod ϕ _ _).symm
-  simp only [ϕ, smul_apply_eq_smul_apply_inv_smul, smul_eq_mul_unop, mul_inv_rev, mul_assoc,
+  simp only [smul_apply_eq_smul_apply_inv_smul, smul_eq_mul_unop, mul_inv_rev, mul_assoc,
```
Comment (j-loreaux) [inline Mathlib/GroupTheory/SchurZassenhaus.lean:63]: let's revert to shrink the diff
```suggestion
  simp only [ϕ, smul_apply_eq_smul_apply_inv_smul, smul_eq_mul_unop, mul_inv_rev, mul_assoc,
```

File: Mathlib/GroupTheory/SchurZassenhaus.lean [hunk 71]
```diff
@@ -85,8 +85,10 @@ theorem smul_diff' (h : H) :
   letI := H.fintypeQuotientOfFiniteIndex
   rw [diff, diff, index_eq_card, ← Finset.card_univ, ← Finset.prod_const, ← Finset.prod_mul_distrib]
   refine' Finset.prod_congr rfl fun q _ => _
-  simp_rw [Subtype.ext_iff, MonoidHom.id_apply, coe_mul, mul_assoc, mul_right_inj]
-  rw [smul_apply_eq_smul_apply_inv_smul, smul_eq_mul_unop, MulOpposite.unop_op, mul_left_inj,
+  simp only [Subtype.ext_iff, Submonoid.coe_mul,
+    coe_toSubmonoid, mul_assoc, mul_right_inj, MonoidHom.id_apply]
+  rw [smul_apply_eq_smul_apply_inv_smul, smul_eq_mul_unop]
+  simp only [MulOpposite.unop_op, mul_left_inj,
```
Comment (j-loreaux) [inline Mathlib/GroupTheory/SchurZassenhaus.lean:91]: ditto
```suggestion
  simp_rw [Subtype.ext_iff, MonoidHom.id_apply, coe_mul, mul_assoc, mul_right_inj]
  rw [smul_apply_eq_smul_apply_inv_smul, smul_eq_mul_unop, MulOpposite.unop_op, mul_left_inj,
```

File: Mathlib/LinearAlgebra/Basis.lean [hunk 72]
```diff
@@ -1247,8 +1247,8 @@ theorem coord_unitsSMul (e : Basis ι R₂ M) (w : ι → R₂ˣ) (i : ι) :
     trans ((unitsSMul e w).coord i) ((w j)⁻¹ • (unitsSMul e w) j)
     · congr
       simp [Basis.unitsSMul, ← mul_smul]
-    simp only [Basis.coord_apply, LinearMap.smul_apply, Basis.repr_self, Units.smul_def,
-      map_smul, Finsupp.single_apply]
+    simp only [Basis.coord_apply, LinearMap.smul_apply, Basis.repr_self,
+      Units.smul_def, map_smul, Finsupp.single_apply]
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Basis.lean:1251]: ditto
```suggestion
    simp only [Basis.coord_apply, LinearMap.smul_apply, Basis.repr_self, Units.smul_def,
      map_smul, Finsupp.single_apply]
```

File: Mathlib/LinearAlgebra/BilinearMap.lean [hunk 73]
```diff
@@ -410,6 +410,13 @@ abbrev _root_.Submodule.restrictBilinear (p : Submodule R M) (f : LinearMap.Bili
     LinearMap.BilinForm R p :=
   f.compl₁₂ p.subtype p.subtype
 
+/-- `linMulLin f g` is the bilinear form mapping `x` and `y` to `f x * g y` -/
+def linMulLin (f g : M →ₗ[R] R) : M →ₗ[R] M →ₗ[R] R :=
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/BilinearMap.lean:414]: This doesn't feel like it belongs in this PR (unless I'm missing something). Can you split it out into a separate PR?

File: Mathlib/Logic/Function/CompTypeclasses.lean [hunk 74]
```diff
@@ -0,0 +1,65 @@
...
+/-- Class of Id maps -/
+class IsId {M : Type*} (σ : M → M) : Prop where
+  eq_id : σ = id
+
+instance {M : Type*} : IsId (@id M) where
+  eq_id := rfl
+
+lemma comp_id {N P : Type*} {φ : N → N} [IsId φ] {ψ : N → P} :
+    CompTriple φ ψ ψ where
```
Comment (j-loreaux) [inline Mathlib/Logic/Function/CompTypeclasses.lean:43]: As in the other file, it would be good to know why this (and the lemmas below) are not listed as instances.

File: Mathlib/Logic/Function/Iterate.lean [hunk 75]
```diff
@@ -54,6 +54,12 @@ theorem iterate_zero : f^[0] = id :=
   rfl
 #align function.iterate_zero Function.iterate_zero
 
+-- can be proved by simp but this is shorter and more natural
+@[simp, nolint simpNF]
```
Comment (j-loreaux) [inline Mathlib/Logic/Function/Iterate.lean:58]: I think maybe the preference here should be for `simp high` (if that works) instead of `nolint simpNF`. Also, why did this move up 25 or so lines? If there is no reason, let's move it back to reduce the diff.

File: Mathlib/GroupTheory/GroupAction/Hom.lean [hunk 76]
```diff
@@ -13,201 +17,419 @@ import Mathlib.Algebra.Module.Basic
...
+  ext fun _ => rfl
+#align equivariant_map.comp_assoc MulActionHom.comp_assoc
+
+theorem comp'_assoc {Q T : Type _} [SMul Q T]
+    {η : P → Q}
+    (h : Z →ₑ[η] T) (g : Y →ₑ[ψ] Z) (f : X →ₑ[φ] Y) :
+    h.comp' (g.comp' f) = (h.comp' g).comp' f :=
+  ext fun _ => rfl
+
+/- old version
```
Comment (j-loreaux) [inline Mathlib/GroupTheory/GroupAction/Hom.lean:277]: why are we keeping it around then?

File: Mathlib/GroupTheory/GroupAction/Hom.lean [hunk 77]
```diff
@@ -13,201 +17,419 @@ import Mathlib.Algebra.Module.Basic
...
+  coe := MulActionHom.toFun
+  coe_injective' f g h := by cases f; cases g; congr
+
+@[simp]
+theorem map_smul {F M X Y : Type*} [SMul M X] [SMul M Y]
+    [FunLike F X Y] [MulActionHomClass F M X Y]
+    (f : F) (c : M) (x : X) : f (c • x) = c • f x :=
+  map_smulₛₗ f c x
+
+-- attribute [simp] map_smulₛₗ
```
Comment (j-loreaux) [inline Mathlib/GroupTheory/GroupAction/Hom.lean:112]: Do we not want this to be a `simp` lemma anymore, or is it marked elsewhere?

File: Mathlib/GroupTheory/GroupAction/Hom.lean [hunk 78]
```diff
@@ -13,201 +17,419 @@ import Mathlib.Algebra.Module.Basic
...
 
-variable {M M' Z}
+end MulActionHom
+
+namespace MulActionHom
+open MulActionHom
+
+variable {φ ψ χ X Y Z}
+
+attribute [instance] CompTriple.id_comp CompTriple.comp_id
```
Comment (j-loreaux) [inline Mathlib/GroupTheory/GroupAction/Hom.lean:212]: Why only mark these with `instance` now?

File: Mathlib/GroupTheory/GroupAction/Hom.lean [hunk 79]
```diff
@@ -367,78 +620,151 @@ theorem coe_one : ⇑(1 : A →+[M] A) = id :=
...
 #align mul_semiring_action_hom MulSemiringActionHom
 
+/-
+/-- Equivariant ring homomorphism -/
+abbrev MulSemiringActionHom
+  (M : Type _) [Monoid M]
+  (R : Type _) [Semiring R] [MulSemiringAction M R]
+  (S : Type _) [Semiring S] [MulSemiringAction M S]:= MulSemiringActionHom (MonoidHom.id M) R S
+-/
+
```
Comment (j-loreaux) [inline Mathlib/GroupTheory/GroupAction/Hom.lean:767]:
```suggestion
```

File: Mathlib/GroupTheory/GroupAction/Hom.lean [hunk 80]
```diff
@@ -13,201 +17,419 @@ import Mathlib.Algebra.Module.Basic
...
+  preserving the ring structure and `φ`-equivariant
 
 ## Notations
 
-* `X →[M] Y` is `MulActionHom M X Y`.
-* `A →+[M] B` is `DistribMulActionHom M A B`.
-* `R →+*[M] S` is `MulSemiringActionHom M R S`.
+* `X →ₑ[φ] Y` is `MulActionHom φ X Y`.
+* `A →ₑ+[φ] B` is `DistribMulActionHom φ A B`.
+* `R →ₑ+*[φ] S` is `MulSemiringActionHom φ R S`.
```
Comment (j-loreaux) [inline Mathlib/GroupTheory/GroupAction/Hom.lean:42]: Let's specify that the `ₑ` means *equivariant* somewhere.

File: Mathlib/GroupTheory/GroupAction/Hom.lean [hunk 81]
```diff
@@ -13,201 +17,419 @@ import Mathlib.Algebra.Module.Basic
...
+section MulActionHom
+
+variable {M' : Type*}
+variable {M : Type*} {N : Type*} {P : Type*}
+variable (φ : M → N) (ψ : N → P) (χ : M → P)
+variable (X : Type*) [SMul M X] [SMul M' X]
+variable (Y : Type*) [SMul N Y] [SMul M' Y]
+variable (Z : Type*) [SMul P Z]
 
 /-- Equivariant functions. -/
```
Comment (j-loreaux) [inline Mathlib/GroupTheory/GroupAction/Hom.lean:58]: Please update the docstring to include the new generality.

File: Mathlib/GroupTheory/GroupAction/Hom.lean [hunk 82]
```diff
@@ -13,201 +17,419 @@ import Mathlib.Algebra.Module.Basic
...
 
 /- Porting note: local notation given a name, conflict with Algebra.Hom.GroupAction
  see https://github.com/leanprover/lean4/issues/2000 -/
 @[inherit_doc]
-notation:25 (name := «MulActionHomLocal≺») X " →[" M:25 "] " Y:0 => MulActionHom M X Y
+notation:25 (name := «MulActionHomLocal≺») X " →ₑ[" φ:25 "] " Y:0 => MulActionHom φ X Y
 
-/-- `SMulHomClass F M X Y` states that `F` is a type of morphisms preserving
-scalar multiplication by `M`.
+@[inherit_doc]
```
Comment (j-loreaux) [inline Mathlib/GroupTheory/GroupAction/Hom.lean:72]: after the docstring above is updated, it would be good if this weren't just `inherit_doc` but instead a new docstring is provided indicating that it is a special case. (or doesn't make reference to `φ` at all.)

**Review by j-loreaux — COMMENTED** [review]
@AntoineChambert-Loir first, let me say a big thank you for taking on this massive project. Aside from / in addition to my comments below, there are several general comments that would make review easier.

1. reverting any style changes will make the diff smaller and therefore easier to review.
2. reverting any changes to proofs which were not really necessary will make the diff smaller and therefore easier to review (especially with a PR like this where it's hard to tell if a change was really necessary or not, and why).
3. Please update the PR description with a much more detailed description of the changes in this PR. That's what will go into the git history, so it should be well documented for such a big change. (also, I think the `id_eq` comment no longer applies)

After you have addressed these issues, please ping me on GitHub or Zulip and I will request a few reviews from people so that we can get this finished up soon!

**Comment by j-loreaux** [comment]
!bench

File: Mathlib/Algebra/Group/Hom/CompTypeclasses.lean [hunk 83]
```diff
@@ -0,0 +1,110 @@
...
+# Propositional typeclasses on several monoid homs
+
+This file contains typeclasses used in the definition of equivariant maps,
+in the spirit what was initially developed by Frédéric Dupuis and Heather Macbeth for linear maps.
+However, we do not expect that all maps should be guessed automatically,
+as it happens for linear maps.
+
+If `φ`, `ψ`… are monoid homs and `M`, `N`… are monoids, we define two classes:
+* `MonoidHom.CompTriple φ ψ χ`, which expresses that `ψ.comp φ = χ`
+* `MonoidHom.CompTriple.IsId φ`, which expresses that `φ = id`
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Group/Hom/CompTypeclasses.lean:21]: Changed

File: Mathlib/Algebra/Group/Hom/CompTypeclasses.lean [hunk 84]
```diff
@@ -0,0 +1,110 @@
...
+
+Some basic lemmas are proved:
+* `MonoidHom.CompTriple.comp` asserts `MonoidHom.CompTriple φ ψ (ψ.comp φ)`
+* `MonoidHom.CompTriple.id_comp` asserts `MonoidHom.CompTriple φ ψ ψ`
+  in the presence of `MonoidHom.IsId φ`
+* its variant `MonoidHom.CompTriple.comp_id`
+
+It also introduces instances:
+* `MonoidHom.CompTriple.IsId (MonoidHom.id M)`
+* `MonoidHom.CompTriple φ ψ χ`, which expresses that `ψ.comp φ = χ`
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Group/Hom/CompTypeclasses.lean:31]: Yes. I rewrote earlier saying that we add "instances"…

File: Mathlib/Algebra/Group/Hom/CompTypeclasses.lean [hunk 85]
```diff
@@ -0,0 +1,110 @@
...
+
+instance {σ : M →* M} [IsId σ] : CompTriple.IsId σ where
+  eq_id := by simp only [IsId.eq_id, MonoidHom.coe_mk, OneHom.coe_mk]
+
+instance {φ : M →* N} {ψ : N  →* P} {χ : M →* P} [κ : CompTriple φ ψ χ] :
+    _root_.CompTriple φ ψ χ where
+  comp_eq := by rw [← MonoidHom.coe_comp, κ.comp_eq]
+
+lemma comp {φ : M →* N} {ψ : N →* P} :
+    CompTriple φ ψ (ψ.comp φ) where
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Group/Hom/CompTypeclasses.lean:74]: Yes, this is because I felt (by reading the documentation of the LinearMap file) that adding these instances would be a burden to the compiler.

File: Mathlib/GroupTheory/GroupAction/Hom.lean (hunk 82 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Hom.lean:72]: I have given more explicit docstrings

File: Mathlib/Logic/Function/CompTypeclasses.lean (hunk 74 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Logic/Function/CompTypeclasses.lean:43]: I am trying to, let's see…

File: Mathlib/GroupTheory/GroupAction/Hom.lean (hunk 80 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Hom.lean:42]: Done

**Review by AntoineChambert-Loir — COMMENTED** [review]
> The question is whether or not the `@[coe]` attribute is allowed to be applied to bundled morphisms, or whether it is only valid on bare functions. 

This was from the original file, I have no idea of what should be done

**Comment by AntoineChambert-Loir** [comment]
OK. It seems I've done everything I was asked to.
The final linter has some complaints, I don't know how to appease them.

**Comment by j-loreaux** [comment]
@dupuisf can you have a look at the design of this given the analogy with semilinear maps. Note: I'm not asking for a review of the whole thing. If this looks good, then we'll merge it once we deal with the linter issues.

File: Mathlib/Algebra/Module/LinearMap/Basic.lean (hunk 61 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Module/LinearMap/Basic.lean]: @j-loreaux @Ruben-VandeVelde 
It seems I added the `@[coe]` tag, but I don't remember precisely why/when. (It even might have been there at some time.)
I will try to revert that change.

File: Mathlib/Algebra/Group/Hom/CompTypeclasses.lean (hunk 85 above)
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Group/Hom/CompTypeclasses.lean]: I had a PR #11591 restricted to these two comptriple files, and the final lint didn't work. So I revert to the initial version.
There is `comp` which requires a CompTriple instance, and `comp'` where it can be inserted explicitly. On the other hand, Lean4 allows the user to provide values to optional/automatic parameters, so maybe this `comp'` trick (that came from my Lean3 version) is not necessary anymore.

File: Mathlib/Algebra/Algebra/NonUnitalHom.lean [hunk 86]
```diff
@@ -281,44 +326,70 @@ theorem coe_one : ((1 : A →ₙₐ[R] A) : A → A) = id :=
...
   rfl
 #align non_unital_alg_hom.one_apply NonUnitalAlgHom.one_apply
 
-instance : Inhabited (A →ₙₐ[R] B) :=
+instance : Inhabited (A →ₛₙₐ[φ] B) :=
   ⟨0⟩
 
+variable {φ' : S →* R} {ψ : S →* T} {χ : R →* T}
+
+set_option linter.unusedVariables false in
```
Comment (jcommelin) [inline Mathlib/Algebra/Algebra/NonUnitalHom.lean:342]: Why is this now needed?

File: Mathlib/Algebra/Algebra/NonUnitalHom.lean [hunk 87]
```diff
@@ -113,144 +155,147 @@ end NonUnitalAlgHomClass
...
 
--- @[simp] -- Porting note (#10618): simp can prove this
-protected theorem map_smul (f : A →ₙₐ[R] B) (c : R) (x : A) : f (c • x) = c • f x :=
-  map_smul _ _ _
+-- @[simp] -- Porting note: simp can prove this
+protected theorem map_smul (f : A →ₛₙₐ[φ] B) (c : R) (x : A) : f (c • x) = (φ c) • f x :=
+  map_smulₛₗ _ _ _
 #align non_unital_alg_hom.map_smul NonUnitalAlgHom.map_smul
 
--- @[simp] -- Porting note (#10618): simp can prove this
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Algebra/NonUnitalHom.lean:242]: Done (I don't even remember having deleted it…)

File: Mathlib/Algebra/Algebra/NonUnitalHom.lean (hunk 86 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Algebra/NonUnitalHom.lean:342]: Because of kappa, I believe, which is used implicitly in `comp`.

File: Mathlib/Analysis/Calculus/Rademacher.lean [hunk 88]
```diff
@@ -220,7 +220,7 @@ theorem ae_lineDeriv_sum_eq
       ContDiff.lipschitzWith_of_hasCompactSupport g_comp g_smooth le_top
     simp_rw [integral_lineDeriv_mul_eq hf g_lip g_comp]
     simp_rw [(g_smooth.differentiable le_top).differentiableAt.lineDeriv_eq_fderiv]
-    simp only [map_neg, _root_.map_sum, SMulHomClass.map_smul, smul_eq_mul, neg_mul]
+    simp only [map_neg, _root_.map_sum, _root_.map_smul, smul_eq_mul, neg_mul]
```
[the remark this answers is not in the document]
Comment (jcommelin) [reply Mathlib/Analysis/Calculus/Rademacher.lean:223]: I agree.

**Comment by jcommelin** [comment]
!bench

**Comment by AntoineChambert-Loir** [comment]
!bench

**Comment by j-loreaux** [comment]
Thanks again for all your work on this @AntoineChambert-Loir !

bors merge
